US07737141B2
Synthesis of 4-nitrobenzoic acid (S)-1-[(3R,5R)-5-(4-chlorophenyl)morpholine-3-yl]ethyl ester
Under a nitrogen atmosphere, to a tetrahydrofuran (20 mL) solution containing (R)-1-[(3R,5R)-5-(4-chlorophenyl)morpholine-3-yl]ethanol (903 mg), triphenylphosphine (1.81 g) and 4-nitrobenzoic acid (1.16 g) was dropwise added diisopropyl azodicarboxylate (1.36 mL) while cooling with ice. The resultant solution was stirred at the same temperature for 30 minutes, and then at room temperature for 2 hours. The reaction solution was diluted with water and ethyl acetate, and the organic layer was partitioned. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. Solvent was removed by distillation under reduced pressure, and the resulting residue was purified by silica gel column chromatography (heptane/ethyl acetate 9/1→8/2→7/3), to thereby obtain the titled compound (1.46 g). The physical properties of the compound were as follows.

reactant | (R)-1-[(3R,5R)-5-(4-chlorophenyl)morpholine-3-yl]ethanol | 903 mg | ClC1=CC=C(C=C1)[C@@H]1COC[C@@H](N1)[C@@H](C)O | C12H16ClNO2
reactant | triphenylphosphine | 1.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-nitrobenzoic acid | 1.16 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | diisopropyl azodicarboxylate | 1.36 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-nitrobenzoic acid (S)-1-[(3R,5R)-5-(4-chlorophenyl)morpholine-3-yl]ethyl ester | 1.46 g | ClC1=CC=C(C=C1)[C@@H]1COC[C@@H](N1)[C@H](C)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C19H19ClN2O5
